US07538114B2
Synthesis of 1-(chloro(phenyl)methyl)-3-(trifluoromethyl)benzene
To a solution of 3-(trifluoromethyl)benzhydrol (5 mL, 20 mmol) in CH2Cl2 (10 mL) was added dropwise thionyl chloride (3 mL, 41 mmol) at rt. The reaction was stirred at 50° C. for 18 h, concentrated under vacuum, azeotroped with toluene and dried under vacuum to give the title compound (4.9 g, 89% yield) as oil, which was used in the next step without further purification. MS (ESI, pos. ion) m/z: 235.0 (M−HCl).

reactant | 3-(trifluoromethyl)benzhydrol | 20 mmol, 5 mL | FC(C=1C=C(C(C2=CC=CC=C2)O)C=CC1)(F)F | C14H11F3O
reactant | thionyl chloride | 41 mmol, 3 mL | S(=O)(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-(chloro(phenyl)methyl)-3-(trifluoromethyl)benzene | 4.9 g, 89% yield | ClC(C1=CC(=CC=C1)C(F)(F)F)C1=CC=CC=C1 | C14H10ClF3
